US08012976B2
(E)-4-(Benzylideneamino)isobenzofuran-1(3H)-one
4-aminoisobenzofuran-1(3H)-one (600 mg, 4 mmol), benzaldehyde (427 mg, 4 mmol) were added to methanol (20 mL) and stirred under reflux overnight, then the mixture was evaporated under reduced pressure and the residue was dried in vacuum. 600 mg of crude product (E)-4-(benzylideneamino)isobenzofuran-1(3H)-one was obtained which was used for the next synthetic step without further purification.

reactant | 4-aminoisobenzofuran-1(3H)-one | 4 mmol, 600 mg | NC1=C2COC(C2=CC=C1)=O | C8H7NO2
reactant | benzaldehyde | 4 mmol, 427 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | methanol | 20 mL | CO | CH4O
product | (E)-4-(Benzylideneamino)isobenzofuran-1(3H)-one | 600 mg | C(/C1=CC=CC=C1)=N\C1=C2COC(C2=CC=C1)=O | C15H11NO2
